US06140100
According to example 183, 5.00 g of methyl-3-tert-butyl-4-hydroxybenzoate was silylated using 4.34 g of tert-butyldimethylsilyl chloride, 3.59 g of imidazole, and 70 mL of anhydrous DMF. The crude product was purified by flash chromatography on silica gel (9:1 hexane:EtOAc) to afford 6.1 g (79%) of methyl 3-tert-butyl-4-((tert-butyldimethylsilyl)oxy)benzoate as a clear liquid.

reactant | methyl-3-tert-butyl-4-hydroxybenzoate | 5.00 g | COC(C1=CC(=C(C=C1)O)C(C)(C)C)=O | C12H16O3
reactant | tert-butyldimethylsilyl chloride | 4.34 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 3.59 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | methyl 3-tert-butyl-4-((tert-butyldimethylsilyl)oxy)benzoate | 6.1 g, 79% | C(C)(C)(C)C=1C=C(C(=O)OC)C=CC1O[Si](C)(C)C(C)(C)C | C18H30O3Si
